US06455528B1
A solution of N-(1-(4-formylphenyl)ethyl)acetamide (0.32 g) and sodium borohydride (63 mg) in ethanol (10 ml) was stirred at room temperature for 1 hr. Thereto was added 2N hydrochloric acid (1 ml) to stop the reaction, and the reaction mixture was poured into ice water (100 ml) and extracted with ethyl acetate. The extract was washed successively with saturated sodium hydrogencarbonate solution (500 ml) and saturated brine (500 ml) and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (elution solvent; hexane:ethyl acetate=2:5, later 1:4) to give N-(1-(4-hydroxymethylphenyl)ethyl)acetamide (100 mg) as a colorless oil. A solution of the obtained N-(1-(4-hydroxymethylphenyl)ethyl)acetamide (100 mg) and thionyl chloride (0.050 ml) in chloroform (5 ml) was stirred at 60° C. for 1 hr. This was diluted with ethyl acetate (100 ml) and poured into a saturated sodium hydrogencarbonate solution (100 ml) to separate the organic layer. The aqueous layer was extracted with ethyl acetate (100 ml) and combined with the organic layer obtained earlier. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (elution solvent; ethyl acetate alone) to give N-(1-(4-chloromethylphenyl)ethyl)acetamide (92 mg) as yellow crystals.

reactant | N-(1-(4-hydroxymethylphenyl)ethyl)acetamide | 100 mg | OCC1=CC=C(C=C1)C(C)NC(C)=O | C11H15NO2
reactant | thionyl chloride | 0.050 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(1-(4-chloromethylphenyl)ethyl)acetamide | 92 mg | ClCC1=CC=C(C=C1)C(C)NC(C)=O | C11H14ClNO
